US04985419
By working in a manner similar to that described below in Example 103, but starting with 10-[(2RS)-1-(1-pyrrolidinyl)-2-propyl]-2-phenothiazinecarbonyl chloride hydrochloride (3.4 g) in dichloromethane (100 cc) and with cyclobutylmethylamine (4.5 g), N-(cyclobutylmethyl)-10-[(2RS)-1-(1-pyrrolidinyl)-2-propyl]-2-phenothiazinecarboxamide (1.7 g) is obtained, after recrystallization in isopropyl ether, in the form of white crystals, m.p. 133° C.

reactant | 10-[(2RS)-1-(1-pyrrolidinyl)-2-propyl]-2-phenothiazinecarbonyl chloride hydrochloride | 3.4 g | Cl.N1(CCCC1)CC(C)N1C2=CC=CC=C2SC=2C=CC(=CC12)C(=O)Cl
reactant | cyclobutylmethylamine | 4.5 g | C1(CCC1)CN | C5H11N
solvent | dichloromethane | 100 cc | ClCCl | CH2Cl2
product | N-(cyclobutylmethyl)-10-[(2RS)-1-(1-pyrrolidinyl)-2-propyl]-2-phenothiazinecarboxamide | 1.7 g | C1(CCC1)CNC(=O)C1=CC=2N(C3=CC=CC=C3SC2C=C1)C(CN1CCCC1)C | C25H31N3OS
